US04958026
5-(2-Aminoethyl)-2-hydroxyaniline, Hydrochloride
In the presence of 100 mg of palladiumcarbon, 2.6 g of 5-(2-aminoethyl)-2-benzyloxyaniline, hydrochloride, is hydrogenated in 20 ml of methanol; after recrystallization from ethanol, 0.52 g of 5-(2-aminoethyl)-2-hydroxyaniline, hydrochloride, is obtained, mp 159°-164° C.

reactant | 5-(2-aminoethyl)-2-benzyloxyaniline, hydrochloride | 2.6 g | Cl.NCCC=1C=CC(=C(N)C1)OCC1=CC=CC=C1
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladiumcarbon | 100 mg | [C].[Pd]
product | 5-(2-Aminoethyl)-2-hydroxyaniline, Hydrochloride | Cl.NCCC=1C=CC(=C(N)C1)O | InChI=1S/C8H12N2O.ClH/c9-4-3-6-1-2-8(11)7(10)5-6;/h1-2,5,11H,3-4,9-10H2;1H
